US05753665
A mixture of 7-(1-bromo-1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine (2.95 g, prepared in a similar manner to that described above), 4-chlorophenol (1.56 g), sodium bicarbonate (1 g), nickel acetyl acetone (5 mg) and dry toluene (80 ml) was stirred and heated under reflux for 7 days. The solvent was evaporated and the crude product was purified by flash chromatography using as eluent a mixture of toluene and ethylacetate (in the ratio 5:1 respectively), followed by recrystallisation from n-hexane, to give 7-[1-(4-chlorophenoxy)-1-methylethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 0.67 g, (mp 132°-135° C.).

reactant | 7-(1-bromo-1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine | BrC(C)(C)C1=CC=NC=2N1N=CN2 | C8H9BrN4
reactant | 4-chlorophenol | 1.56 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
catalyst | nickel acetyl acetone | 5 mg | C(C)(=O)CC(C)=O.[Ni]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 7-[1-(4-chlorophenoxy)-1-methylethyl]-1,2,4-triazolo[1,5-a]pyrimidine | ClC1=CC=C(OC(C)(C)C2=CC=NC=3N2N=CN3)C=C1 | C14H13ClN4O
